.subckt 74hc595 OE ST_CP DS MR SH_CP Q0 Q1 Q2 Q3 Q4 Q5 Q6 Q7 Q8 VCC VGND  vcc1={vcc} speed1={speed} tripdt1={tripdt}
.param vcc=5 speed=1 tripdt=1e-9
.param vcc1={vcc} speed1={speed} tripdt1={tripdt}
.param td1=1e-9*(11-3-3)*4.0/({vcc1}-0.5)*{speed1}
.param td2=1e-9*(14+4-3-3)*4.0/({vcc1}-0.5)*{speed1}
A1 si 0 sck sclr 0 0 qi1 0 DFLOP td={td1}
A2 qi1 0 sck sclr 0 0 qi2 0 DFLOP td={td1}
A3 qi2 0 sck sclr 0 0 qi3 0 DFLOP td={td1}
A4 qi3 0 sck sclr 0 0 qi4 0 DFLOP td={td1}
A5 qi4 0 sck sclr 0 0 qi5 0 DFLOP td={td1}
A6 qi5 0 sck sclr 0 0 qi6 0 DFLOP td={td1}
A7 qi6 0 sck sclr 0 0 qi7 0 DFLOP td={td1}
A8 qi7 0 sck sclr 0 0 qi8 0 DFLOP td={td1}
A9 qi1 0 rck sclr 0 0 q1x 0 DFLOP td={td1}
A10 qi2 0 rck sclr 0 0 q2x 0 DFLOP td={td1}
A11 qi3 0 rck sclr 0 0 q3x 0 DFLOP td={td1}
A12 qi4 0 sck sclr 0 0 q4x 0 DFLOP td={td1}
A13 qi5 0 rck sclr 0 0 q5x 0 DFLOP td={td1}
A14 qi6 0 rck sclr 0 0 q6x 0 DFLOP td={td1}
A15 qi7 0 rck sclr 0 0 q7x 0 DFLOP td={td1}
A16 qi8 0 rck sclr 0 0 q8x 0 DFLOP td={td1}
XU1 DS si VCC 0 74hc_IN_1 vcc2={vcc1} speed2={speed1} tripdt2={tripdt1}
XU2 SH_CP sck VCC 0 74hc_IN_1 vcc2={vcc1} speed2={speed1} tripdt2={tripdt1}
XU3 MR N001 VCC 0 74hc_IN_1 vcc2={vcc1} speed2={speed1} tripdt2={tripdt1}
XU4 ST_CP rck VCC 0 74hc_IN_1 vcc2={vcc1} speed2={speed1} tripdt2={tripdt1}
XU5 oei q1x q1 VCC 0 74HC_OUT_TS_2X vcc2={vcc1} speed2={speed1} tripdt2={tripdt1}
XU6 oei q2x q2 VCC 0 74HC_OUT_TS_2X vcc2={vcc1} speed2={speed1} tripdt2={tripdt1}
XU7 oei q3x q3 VCC 0 74HC_OUT_TS_2X vcc2={vcc1} speed2={speed1} tripdt2={tripdt1}
XU8 oei q4x q4 VCC 0 74HC_OUT_TS_2X vcc2={vcc1} speed2={speed1} tripdt2={tripdt1}
XU9 oei q5x q5 VCC 0 74HC_OUT_TS_2X vcc2={vcc1} speed2={speed1} tripdt2={tripdt1}
XU10 oei q6x q6 VCC 0 74HC_OUT_TS_2X vcc2={vcc1} speed2={speed1} tripdt2={tripdt1}
XU11 oei q7x q7 VCC 0 74HC_OUT_TS_2X vcc2={vcc1} speed2={speed1} tripdt2={tripdt1}
XU12 oei q8x q8 VCC 0 74HC_OUT_TS_2X vcc2={vcc1} speed2={speed1} tripdt2={tripdt1}
XU13 OE N002 VCC 0 74hc_IN_1 vcc2={vcc1} speed2={speed1} tripdt2={tripdt1}
A17 N001 0 0 0 0 sclr 0 0 BUF
A18 N002 0 0 0 0 oei 0 0 BUF
.ends
